US05197545
When isobutyraldehyde was reacted under conditions similar as described in Example I, above, for the preparation of dihydrothiazoles from ketones, no incorporation of sulfur occurred. However with a variation in the reaction, secondary aldehydes could be made to yield dihydrothiazoles in excellent yield. The reaction of isobutyraldehyde with ammonia yielded, via an intermediate, 2,6-dimethyl-4-azahepta-2,4-diene.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | ammonia | N | H3N
product | 2,6-dimethyl-4-azahepta-2,4-diene | CC(C)=CN=CC(C)C | C8H15N
